US04271160
3 g of ethyl-3-phenyl-2-hydroxy-3-(2-nitrophenoxy)-propionate was refluxed with 5.4 ml of ethanolamine in 50 ml of anhydrous ethanol for 20 hours. The solvent was removed under reduced pressure, the residue was taken up with water and the solid collected by filtration. After crystallization from ethyl acetate, 1.8 g of N-(2-hydroxyethyl)-3-phenyl-2-hydroxy-3-(2-nitrophenoxy)-propionamide was obtained, m.p. 166°-188° C. Yield 58%.

reactant | ethyl-3-phenyl-2-hydroxy-3-(2-nitrophenoxy)-propionate | 3 g | C(C)OC(C(C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)O)=O | C17H17NO6
reactant | ethanolamine | 5.4 ml | C(O)CN | C2H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-hydroxyethyl)-3-phenyl-2-hydroxy-3-(2-nitrophenoxy)-propionamide | 1.8 g, Yield 58% | OCCNC(C(C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)O)=O | C17H18N2O6
